US07759337B2
To 2,2,2-trifluoro-N-(7-iodo-6-methylbenzo[d]isoxazol-3-yl)acetamide in acetone (5.0 mL) at RT was added dimethyl sulfate (766 mg, 6.07 mmol) and potassium carbonate (1.40 g, 10.12 mmol). The mixture was heated at 50° C. in an oil bath for 5 h, then cooled to RT, filtered through a pad of Celite and rinsed with additional acetone (2×5 mL). The filtrate was concentrated to dryness to provide 2,2,2-trifluoro-N-(7-iodo-6-methylbenzo[d]isoxazol-3-yl)-N-methylacetamide. MS (ESI, pos. ion) m/z: 385.0 (M+1).

reactant | 2,2,2-trifluoro-N-(7-iodo-6-methylbenzo[d]isoxazol-3-yl)acetamide | FC(C(=O)NC1=NOC2=C1C=CC(=C2I)C)(F)F | C10H6F3IN2O2
reactant | dimethyl sulfate | 6.07 mmol, 766 mg | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 10.12 mmol, 1.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 5.0 mL | CC(=O)C | C3H6O
product | 2,2,2-trifluoro-N-(7-iodo-6-methylbenzo[d]isoxazol-3-yl)-N-methylacetamide | FC(C(=O)N(C)C1=NOC2=C1C=CC(=C2I)C)(F)F | C11H8F3IN2O2
